US04559403
Preparation of 4-(chloromethyl)-1-(3,4-dimethoxybenzyl)-6,7-dimethoxyisoquinoline 2-oxide
To an ice-cooled solution of 5.2 g 4-chloromethyl-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl) methyl] isoquinoline in 150 ml methylene chloride, was added under stirring and nitrogen a solution of 3.04 g m-chloroperbenzoic acid in 100 ml methylene chloride over 2 hours, so that the temperature did not exceed 3°-5°. The solution was stirred over night at room temperature and the red solution applied to a column, packed with 100 g silica gel 60 Merck, 230-400 mesh ASTM. From elution with ether and ethyl acetate the unreacted base 4-chloromethyl-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]isoquinoline was separated. Elution with ethyl acetate/ethanol (4:1) afforded 3.8 g of a brownish foam. The 4-(chloromethyl)-1-(3,4-dimethoxybenzyl)-6,7-dimethoxyisoquinoline 2oxide crystallized from methylene chloride/ethyl acetate: 3.5 g yellow crystals, mp 167°-168°.

reactant | 4-chloromethyl-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl) methyl] isoquinoline | 5.2 g | ClCC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC | C21H22ClNO4
reactant | m-chloroperbenzoic acid | 3.04 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(chloromethyl)-1-(3,4-dimethoxybenzyl)-6,7-dimethoxyisoquinoline 2-oxide | 3.8 g | ClCC1=C[N+](=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC)[O-] | C21H22ClNO5
